US07524870B2
A degassed solution of 3-(4-iodo-phenoxymethyl)-benzoic acid methyl ester (of Inter-mediate 1; 74 mg, 0.2 mmol) in dioxane (4 mL) and a degassed solution of potassium carbonate (83 mg) in water (0.4 mL) were added to a reaction vial containing (2-phenoxy)phenylboronic acid (available from Aldrich Chemical Company, Inc., Milwaukee, Wis.; 128 mg, 0.6 mmol). The solution was degassed and bis(tri-cyclohexylphos-phine)palladium (available from Strem Chemicals, Inc., Newburyport, Mass.; 7 mg, 0.01 mmol) was added. The mixture was heated in a microwave oven at 170 degrees for 25 min. The reaction mixture was filtered through silica, and washed with dioxane (1 mL) and dimethylacetamide (1 mL). 2 M potassium hydroxide solution (0.4 mL) was added. The mixture was stirred at room temperature overnight, and then 1 M HCl (0.8 mL) was added. The solvent was evaporated and the residue was triurated with 50% aqueous methanol to give 3-(2′-phenoxy-biphenyl-4-yloxymethyl)-benzoic acid. Mass spectrum MH+=397.

reactant | 3-(4-iodo-phenoxymethyl)-benzoic acid methyl ester | 0.2 mmol, 74 mg | COC(C1=CC(=CC=C1)COC1=CC=C(C=C1)I)=O | C15H13IO3
reactant | potassium carbonate | 83 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (2-phenoxy)phenylboronic acid | 0.6 mmol, 128 mg | O(C1=CC=CC=C1)C1=C(C=CC=C1)B(O)O | C12H11BO3
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.4 mL | O | H2O
product | 3-(2′-phenoxy-biphenyl-4-yloxymethyl)-benzoic acid | O(C1=CC=CC=C1)C1=C(C=CC=C1)C1=CC=C(C=C1)OCC=1C=C(C(=O)O)C=CC1 | C26H20O4
